US07238689B2
42.0 g (711.9 mmoles) of potassium fluoride was added to a solution of 60.4 g (282.7 mmoles) of 5-chloro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde dissolved in 700 ml of dimethyl sulfoxide. The mixture was stirred at 120 to 140° C. for 5 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 36.8 g (yield: 66.0%) of 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde.

reactant | potassium fluoride | 711.9 mmoles, 42.0 g | [F-].[K+]
reactant | 5-chloro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 282.7 mmoles, 60.4 g | ClC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4ClF3N2O
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 700 ml | CS(=O)C | C2H6OS
product | 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 36.8 g, yield: 66.0% | FC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4F4N2O
